US04329470
A mixture of 54.5 g of ethyl 2,3-dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylate and 240 ml of acetic anhydride is refluxed for 13 hours. The mixture is distilled to remove 150 ml of acetic anhydride and acetic acid this is replaced by fresh acetic anhydride and refulxing is resumed. After a total of 22 hours of reflux, excess acetic anhydride is evaporated under reduced pressure and the resulting residue is triturated with cyclohexane and then recrystallized from cyclohexane to give ethyl 1,3-diacetyl-2,3-dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylate melting at about 56°-58° C.

reactant | ethyl 2,3-dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylate | 54.5 g | CC1=C(NC(N1)=O)C(=O)OCC | C7H10N2O3
solvent | acetic anhydride | 240 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 1,3-diacetyl-2,3-dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylate | C(C)(=O)N1C(N(C(=C1C)C(=O)OCC)C(C)=O)=O | C11H14N2O5
